US05866594
Synthesis of methyl 1-hydroxy-4,7-dimethylindole-2-carboxylate (compound 76)
A flask was charged with 1.0 g (4.9 mmol) of methyl 4,7-dimethylindoline-2-carboxylate and 64 mg (0.193 mmol) of sodium tungstate-dihydrate, and the air in the reaction system was substituted with nitrogen. Methanol (15 ml) was added and the reaction mixture was cooled to 0° C. Then 1.25 g of 30% aqueous hydrogen peroxide solution was added and the reaction mixture was stirred for 3 hours. Yield: 35.5%

reactant | methyl 4,7-dimethylindoline-2-carboxylate | 4.9 mmol, 1.0 g | CC1=C2CC(NC2=C(C=C1)C)C(=O)OC | C12H15NO2
reactant | hydrogen peroxide | 1.25 g | OO | H2O2
solvent | Methanol | 15 ml | CO | CH4O
product | methyl 1-hydroxy-4,7-dimethylindole-2-carboxylate | Yield: 35.5% | ON1C(=CC2=C(C=CC(=C12)C)C)C(=O)OC | C12H13NO3
